US07344702B2
To a solution of 4-but-2-ynyloxy-1,2-dimethoxybenzene (1.66 g, 8.66 mmol) in THF (75 mL) is added n-butyl lithium (5.54 ml of 1.6 M solution in THF, 8.86 mmol) at −78° C. After 30 min., 5-methoxy-2,2-dimethyl-8-nitro-2H-chromene-6-carbaldehyde (2.17 g, 8.25 mmol) in THF (50 mL) is added. The reaction is stirred for 1 h and then quenched with sat. NH4Cl and extracted with ethyl acetate. The combined organic layers are washed with brine and dried over Na2SO4. The resulting crude material is dissolved in dichloromethane (20 mL) and MnO2 (5.3 g, 61 mmol) is added. After the reaction is stirred overnight at room temperature, ether is added and the suspension is filtered through a pad of celite and silica gel to afford 4-(3,4-dimethoxy-phenyoxy)-1-(5-methoxy-2,2-dimethyl-8-nitro-2H-chromen-6-yl)-but-2-yn-1-one.

reactant | 4-but-2-ynyloxy-1,2-dimethoxybenzene | 8.66 mmol, 1.66 g | C(C#CC)OC1=CC(=C(C=C1)OC)OC | C12H14O3
reactant | n-butyl lithium | 8.86 mmol, 1.6 M, 5.54 ml | C(CCC)[Li]
reactant | 5-methoxy-2,2-dimethyl-8-nitro-2H-chromene-6-carbaldehyde | 8.25 mmol, 2.17 g | COC1=C2C=CC(OC2=C(C=C1C=O)[N+](=O)[O-])(C)C | C13H13NO5
reactant | ether | CCOCC | C4H10O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 61 mmol, 5.3 g | O=[Mn]=O
product | 4-(3,4-dimethoxy-phenyoxy)-1-(5-methoxy-2,2-dimethyl-8-nitro-2H-chromen-6-yl)-but-2-yn-1-one | COC=1C=C(C=CC1OC)OCC#CC(=O)C=1C(=C2C=CC(OC2=C(C1)[N+](=O)[O-])(C)C)OC | C24H23NO8
